US07132544B2
N-(3-phenylpropyl)-1H-imidazole-1-carboxamide
To a suspension of 1,1′-carbonyldiimidazole (33.00 g, 0.203 mol) in THF (100 mL) at room temperature under N2, was added 3-phenylpropylamine (25.00 g, 0.185 mol) in THF (50 mL), dropwise. The reaction mixture became clear during the addition of the 3-phenylpropylamine. After completion of the addition, the clear solution was stirred for 30 min at room temperature and then quenched with water (150 mL) and ethyl acetate (200 mL). The layers were separated and the organic layer washed with water (150 mL), brine (150 mL), and dried with Na2SO4. The solvents were removed in vacuo to yield a white wax-like solid.

reactant | 1,1′-carbonyldiimidazole | 0.203 mol, 33.00 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-phenylpropylamine | 0.185 mol, 25.00 g | C1(=CC=CC=C1)CCCN | C9H13N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(3-phenylpropyl)-1H-imidazole-1-carboxamide | C1(=CC=CC=C1)CCCNC(=O)N1C=NC=C1 | C13H15N3O
